US07067517B2
Methyl-phenyl-carbamic acid 4-{[4-(methyl-phenyl-carbamoyloxy)-2-oxo-1,2-dihydro-quinoline-3-carbonyl]-amino}-phenyl ester
The title product was prepared from 4-hydroxy-2-oxo-1,2-dihydro-quinoline-3-carboxylic acid (4-hydroxyphenyl)-amide and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC (6.6%, oil). HPLC-MS: m/z=563.2 (M+1); Rt: 4.46 min.

reactant | 4-hydroxy-2-oxo-1,2-dihydro-quinoline-3-carboxylic acid (4-hydroxyphenyl)-amide | OC1=CC=C(C=C1)NC(=O)C=1C(NC2=CC=CC=C2C1O)=O | C16H12N2O4
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-{[4-(methyl-phenyl-carbamoyloxy)-2-oxo-1,2-dihydro-quinoline-3-carbonyl]-amino}-phenyl ester | CN(C(=O)OC1=C(C(NC2=CC=CC=C12)=O)C(=O)NC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)C1=CC=CC=C1 | C32H26N4O6
